US05011998
N-(4-methylphenyl)-N-phenyl-benzenemethanamine
Methyl-4-(phenylmethoxy)benzene (1.98 g, 0.01 mol) and N-(phenylmethylene)benzenamine (1.81 g, 0.01 mol) were reacted in Na/DMF (1 g: 50 mL) at 75° C. for 30 min. Aqueous work-up, extraction with petroleum ether, 3×100 mL, and chromatography with petroleum ether/ethyl acetate 95:5 afforded a total of 1 g. of solid which by HPLC chromatography contained N,N-diphenyl-benzenemethanamine and the title compound in the ratio (6:94 (51% yield by HPLC). The purer fractions from chromatography on silica were combined and the solvent removed. The residual oil was dissolved in methanol and some petroleum ether. On cooling this crystallized the title compound. Two recrystallizations from methanol gave the title compound (98.1% pure; 36% yield), mp 85-6° C. 1H NMR (200 MHz, CDCl3)δ (assignment): 2.29 (s, 3H, methyl), 4.97 (s, 2H, --NCH2Ph), 6.80-6.97 (m, 3H, aromatic) 7.06-7.27 (d, 4 H, J=1.37 Hz, --NC6H4CH3), 7.14-7.36 (m, 7H, aromatic). MS [m/e (70 eV, % of base peak)] PhCH2N(Ph)(C6H4)CH3 273 (M+., 96.5), 196 (M+. --Ph., 31.7), 182 (M+. --PhCH3., 100), 167 (M+. --PhCH2. --CH3., 81.2), 91 (C7H7+, 98.3). FTIR (CDCl3): 3089, 3064, 3030, 2924, 2864, 1596, 1572, 1512, 1497, 1453 cm-1.

reactant | Methyl-4-(phenylmethoxy)benzene | 0.01 mol, 1.98 g | CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C14H14O
reactant | N-(phenylmethylene)benzenamine | 0.01 mol, 1.81 g | C1(=CC=CC=C1)C=NC1=CC=CC=C1 | C13H11N
reactant | N,N-diphenyl-benzenemethanamine | C1(=CC=CC=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
product | N-(4-methylphenyl)-N-phenyl-benzenemethanamine | 51% yield | CC1=CC=C(C=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1 | C20H19N
